Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
R hand swelling and pain x 1 week. 
 
Major Surgical or Invasive Procedure:
I&D hand abscess

 
History of Present Illness:
Mr. ___ is a ___ male with  a history of
poly - substance abuse, metamphenamine, cocaine, alcohol and
heroin, depression, who presnets with increasing hand pain and
swelling x 1 week acutely worse over the past ___ days. He is a
poor historian because he keeps falling asleep. He tells me that
he did inject into his R hand and he hit himself in the face 
with
his right hand because he was angry with someone and then the
swelling worsened. Upon presentation to the ED his VS were:
8 |98.3 |91 |93/58 |18 |97% RA 
In the ED he received:vancomycin
He was seen by hand surgery in the ED. A hand X ray was done. An
US of the hand was done which demonstrated an abscess. Hand
surgery did not feel comfortable taking the patient with his
active drug use and thus he was admitted to medicine.  
He does not report, fevers, chills, chest pain, nausea or
vomiting. 
His last drink was yesterday but he denies heavy ETOH. 
ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
Unable to obtain secondary to inattention.
Per OMR
H/o BPAD
H/o Depression
H/o admission Deaconess 4
H/o setting himself on fire at age ___
.
 
Social History:
___
Family History:
His parents are still alive. He cannot tell me if any other
members of his family are ill. 
.
 
Physical Exam:
ADMISSION EXAM:
GENERAL: Somnolent but occasionally wakes up to answer 
questions.
EYES: Anicteric, pupils are 4mm and not reactive b/l  
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation decreased movement throughout 
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
2+ radial pulse of RUE 
Full range of motion
No decreased sensation. 
SKIN: erythema and swelling of the R hand
NEURO: Alert, oriented x1- given his intoxication, it is
difficult to determine if he is oriented. His face is symmetric,
gaze conjugate with EOMI, speech fluent, moves all limbs, 
PSYCH: Altered from inattentive to agitated to somnolent.  

 
Pertinent Results:
LABS:
CRP 81.6--> 36.5
WBC 10.2--> 8.2--> 8.3
hgb 12.3--> 13.4--> 14.1

Utox + amphetamine
U/A neg

BCx ___ x2 pending
UCx ___ pending
I&D ___ wound cx prelim no growth

R hand U/S ___:
Thin 0.4 x 1.4 x 2.2 cm fluid collection over the dorsal aspect
of the distal 
right fifth metacarpal with extensive surrounding swelling. 

CT head ___:
There is no evidence of fracture, acute territorial 
infarction,hemorrhage,edema,or mass effect.  The ventricles and
sulci are 
normal in size and configuration. 
  
Opacification of the ethmoid air cells and sphenoid sinuses
bilaterally.  
There is mucosal thickening of the partially visualized 
maxillary
sinuses 
bilaterally. 

XR R hand ___:
There is extensive subcutaneous swelling overlying the dorsal
aspect of the 
hand, particularly over the heads of the metatarsals.  Well
corticated rounded 
ossific density over the bases of the metatarsals on the lateral
view is 
unchanged since ___.  No radiopaque foreign body.  No
subcutaneous gas.  No 
focal erosions identified. 

 
Brief Hospital Course:
___ is a ___ with 
substance abuse disorder (cocaine/amphetamine) presenting with R
hand swelling and erythema with abscess and cellultis.

ACUTE/ACTIVE PROBLEMS:
# R HAND CELLULTITIS
# R HAND ABSCESS
He was seen by hand surgery and is s/p I&D at bedside, cultures 
preliminarily without growth. He was initially treated on 
vancomycin and then transitioned to PO Bactrim DS 2 tabs bid, 
plan for another 7 days (end dat10/4). He was recommended to 
keep his hand elevated and do betadine soaks 3x/day. He was set 
up with an outpatient orthopedic appointment on ___. 
Patient elected to leave against medical advise on ___ despite 
the fact that we were unable to bring his prescription for the 
antibiotic to the bedside for him. 

# SUBSTANCE ABUSE DISDORER: 
#fatigue
He was fatigued thought possibly in s/o acute amphetamine 
withdrawal, which can includedysphoria, anhedonia, fatigue, 
increased sleep. A subacute withdrawal phase can persist for up 
to 3 weeks. He was seen by SW and addiction psychiatry but 
refused referrals for addiction. 

####################
TRANSITIONAL ISSUES:
-please check his R hand to see if the abscess is healing
-please check to see if patient had picked up his antibiotic 
prescription and whether he took them.
-please continue to encourage rehabilitation for 
addiction-patient is in pre-contemplative state currently.
###############
>30 minutes spent on care coordination and discharge planning on 
the day of discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Ibuprofen 400 mg PO Q8H:PRN Pain - Mild 
RX *ibuprofen 400 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*60 Tablet Refills:*0 
2.  Sulfameth/Trimethoprim DS 2 TAB PO BID Duration: 7 Days 
RX *sulfamethoxazole-trimethoprim [Bactrim DS] 800 mg-160 mg 2 
tablet(s) by mouth 2 times per day Disp #*28 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
hand abscess

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted for an infection on your hand. You had a 
procedure to drain the pus. You were treated with IV antibiotics 
and then transitioned to oral antibiotics. 

PLEASE:
1. TAKE YOUR ANTIBIOTICS AS PRESCRIBED: 2 TABS 2x/day up to ___. GO AT LEAST 1x/day (preferably 3x/day) to the ___ 
___ for the homeless ___ 
___ Tel ___ for dressing changes for the next 5 days 
(until ___.
3. Go to your appointment with orthopedics on ___

It was a pleasure taking care of you.

-Your ___ care team.
 
Followup Instructions:
___